US08106045B2
Chlorotrimethylsilane (96 g, 884 mmol) was added to a solution of lithium borohydride (9.6 g, 441 mmol) in tetrahydrofuran (500 ml) and stirred for one hour at room temperature. A solution of 4-((2S)-4-benzyl-5-oxo-morpholin-2-yl)phenyl methanesulfonate (79.8 g, 221 mmol) in tetrahydrofuran (200 ml) was added to the solution and stirred at room temperature for one hour. After careful addition of methanol (60 ml) under ice-cooling, the solvent was removed under reduced pressure. Potassium hydroxide (145 g, 2.2 mol) was added to a solution of the residue in ethanol (300 ml) and water (300 ml) and the mixture was stirred at 80° C. for 2 hours. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. Removal of the solvent yielded (2S)-4-benzyl-2-(4-hydroxyphenyl)morpholine (39.8 g, 67%) as white crystals.

reactant | Chlorotrimethylsilane | 884 mmol, 96 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | lithium borohydride | 441 mmol, 9.6 g | [BH4-].[Li+]
reactant | 4-((2S)-4-benzyl-5-oxo-morpholin-2-yl)phenyl methanesulfonate | 221 mmol, 79.8 g | CS(=O)(=O)OC1=CC=C(C=C1)[C@H]1CN(C(CO1)=O)CC1=CC=CC=C1 | C18H19NO5S
reactant | Potassium hydroxide | 2.2 mol, 145 g | [OH-].[K+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | (2S)-4-benzyl-2-(4-hydroxyphenyl)morpholine | 39.8 g, 67% | C(C1=CC=CC=C1)N1C[C@@H](OCC1)C1=CC=C(C=C1)O | C17H19NO2
